* Z:\mnt\spice-netlists\LT8705_TA01.asc
XU1 N015 N008 N007 N017 N017 N016 0 N027 N024 N028 MP_01 N022 0 N004 N019 N011 N012 N014 N002 MP_02 N001 N013 N009 MP_03 N020 N023 N025 N021 OUT OUT OUT IN IN IN N019 N018 0 0 0 LT8705
V1 IN 0 36
C1 IN 0 440µ
R1 N003 N013 2
R2 N005 N011 2
R3 N006 0 10m
R4 N006 N007 10
R5 0 N008 10
C2 0 N007 1n
C3 N008 0 1n
C4 N001 N009 0.22µ
C5 N012 N002 0.22µ
C6 OUT 0 18.8µ
C7 OUT 0 440µ
R6 N019 N025 100K
R7 N019 N023 100K
R8 N019 N021 100K
R9 N019 N020 100K
R10 OUT N016 392K
R11 N016 0 10K
R12 N010 N019 4.02
C8 N019 0 4.7µ x2
R13 N018 N017 100K
R14 N015 IN 71.5K
R15 N015 0 20K
R16 0 N022 210K
C9 N026 0 3.3n
R17 N027 N026 56.2K
C10 N027 0 220p
C11 N024 0 5n
C12 0 IN 1µ
M§Q1 IN N003 N001 N001 IRLR2908
L1 N001 N002 22µ
M§Q2 N001 N004 N006 N006 IRLR2908
M§Q3 N002 N005 N006 N006 IRLR2908
M§Q4 OUT N014 N002 N002 IRLR2908
D1 N010 N009 MBRS1100
D2 N010 N012 MBRS1100
C13 IN 0 18.8µ
Rload OUT 0 9.6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6m startup
* LT8705 - 80V Vin and Vout Synchronous 4-Switch Buck- Boost DC/DC Controller\nTelecom Voltage Stabilizer\nInput: 36V to 80V       Output: 48V @ 5A
* Note:\n  A smaller SS capacitor, C11, is being used to reduce simulation time. Typical value should be 1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT8705.sub
.backanno
.end
